US05130239
Lactosucrose high-content powder
One part by weight of sucrose and one part by weight of lactose were dissolved by heating in 2 parts by weight of water, and the mixture was cooled to 50° C., added with a β-Dfructofuranosidase specimen prepared by the method in Example A-3(1) in an amount of 8 units per g of sucrose, and subjected to an enzymatic reaction at 50° C. and pH 6.0 for 20 hours. The resultant mixture was further heated to inactivate the enzyme and filtered to obtain a filtrate.

reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
solvent | water | O | H2O
product | Lactosucrose | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@]3([C@H]([C@@H]([C@H](O3)CO)O)O)CO)CO)O)O)O)O | C18H32O16
